US07160901B2
c. 1-acetyl-5-amino-2-indolinone
30.0 g (136 mmol) of 1-acetyl-5-nitro-2-indolinone are dissolved in a mixture of 650 ml of dichloromethane and 650 ml of methanol and after the addition of 5 g of 10% palladium on activated charcoal the mixture is hydrogenated for 45 minutes with hydrogen. Then the catalyst is filtered off and evaporated down.

reactant | 1-acetyl-5-nitro-2-indolinone | 136 mmol, 30.0 g | C(C)(=O)N1C(CC2=CC(=CC=C12)[N+](=O)[O-])=O | C10H8N2O4
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 650 ml | ClCCl | CH2Cl2
solvent | methanol | 650 ml | CO | CH4O
catalyst | palladium on activated charcoal | 5 g | [Pd] | Pd
product | 1-acetyl-5-amino-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)N)=O | C10H10N2O2
